Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
peanut allergy / Gadolinium-Containing Contrast Media
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
none

attach
 
Pertinent Results:
___ 08:45PM BLOOD WBC-38.2* RBC-3.67* Hgb-11.5* Hct-36.5* 
MCV-100* MCH-31.3 MCHC-31.5* RDW-13.2 RDWSD-47.8* Plt ___
___ 08:15AM BLOOD WBC-26.8* RBC-3.80* Hgb-11.7* Hct-37.8* 
MCV-100* MCH-30.8 MCHC-31.0* RDW-13.1 RDWSD-47.0* Plt ___
___ 08:45PM BLOOD Neuts-90.8* Lymphs-1.2* Monos-4.0* 
Eos-0.2* Baso-0.3 Im ___ AbsNeut-34.69* AbsLymp-0.46* 
AbsMono-1.53* AbsEos-0.07 AbsBaso-0.13*
___ 08:45PM BLOOD Neuts-90.8* Lymphs-1.2* Monos-4.0* 
Eos-0.2* Baso-0.3 Im ___ AbsNeut-34.69* AbsLymp-0.46* 
AbsMono-1.53* AbsEos-0.07 AbsBaso-0.13*
___ 08:15AM BLOOD AbsNeut-22.97*
___ 08:45PM BLOOD Glucose-104* UreaN-10 Creat-0.6 Na-134* 
K-4.7 Cl-98 HCO3-23 AnGap-13
___ 08:15AM BLOOD UreaN-7 Creat-0.7 Na-133* K-4.6
___ 08:15AM BLOOD ALT-12 AST-19 AlkPhos-157*
___ 05:20AM BLOOD cTropnT-<0.01
___ 08:45PM BLOOD cTropnT-<0.01
___ 08:50PM BLOOD ___ pO2-52* pCO2-42 pH-7.40 
calTCO2-27 Base XS-0
___ 08:02AM BLOOD Lactate-1.2
___ 05:33AM BLOOD Lactate-0.9

Time Taken Not Noted     Log-In Date/Time: ___ 5:59 am
      BLOOD CULTURE      2 OF 2. 

   Blood Culture, Routine (Pending):

 
CHEST (PA & LAT) Study Date of ___ 7:39 ___ 
IMPRESSION: 
Diffuse, ill-defined interstitial opacities with an upper lobe 
predominance, as seen on the prior chest CT, concerning for 
bronchiolitis which may be infectious or inflammatory in 
etiology.  Redemonstration of scarring in the right apex. 
 

CTA CHEST  Study Date of ___ 11:01 ___ 
IMPRESSION:
1. Limited evaluation of the subsegmental pulmonary arteries due 
to timing of the contrast bolus, however there is no definite 
filling defect centrally through the segmental pulmonary 
arteries to suggest pulmonary embolism. 
2. Mild interval worsening of bronchiolar and airspace 
inflammation compared to the study from 2 days prior, 
particularly in the left lung/left upper lobe, which again could 
be infectious or medication related. 
3. Small left pleural effusion is new. 
4. Stable position of the right-sided chest port, with tip 
possibly located in or near the coronary sinus. 
5. Unchanged 7 mm left apical nodule, presumed metastasis. 
6. Visualized portion of the upper abdomen re demonstrates the 
known hepatic and left adrenal metastases. 
 
EKG: NSR@70, QTc 511, RBBB

 
Brief Hospital Course:
___ metastatic Leiyomyosarcoma with mets to the spine on active 
chemotherapy admitted with pneumonia. 

# Bacterial Pneumonia: 
Patient with fevers and shortness of breath with CTA 
demonstrating interval worsening of bronchiolar and airspace 
inflammation with Ddx of acute infectious process versus 
medication effect (ie gemcitabine pulmonary toxicity). However, 
given improvement on antibiotics alone and no steroids, 
consistent with bacterial infection. Due to history of MAC, ID 
team was consulted to guide antibiotic therapy. He was initially 
on Vanc/cef, that was de-escalated to CFTX with transition to 
cefpodoxime on discharge for a total 14 day course.  

# Leiomyosarcoma, metastatic to Spine:
Currently on Gemcitabine.  Outpatient oncologist notified and 
his next chemotherapy will be delayed one week, to resume 
___. 

# Moderate protein-calorie Malnutrition: 
Nutrition consulted. Patient declined dobhoff for enteral 
feeding. 

> 30 mins spent coordinating discharge 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Ondansetron 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
2. Dexamethasone 8 mg PO Q12H:PRN chemotherapy 
3. EPINEPHrine (EpiPEN) 0.3 mg IM ASDIR 
4. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
5. Gabapentin 1200 mg PO TID 
6. Mirtazapine 30 mg PO QHS 
7. Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line 
8. Pegfilgrastim-cbqv 6 mg SC ASDIR 
9. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Moderate 

10. Naloxone Nasal Spray 4 mg IH ASDIR 
11. Megestrol Acetate 625 mg PO DAILY 
12. Calcium Carbonate 3000 mg PO DAILY 
13. Potassium Chloride 20 mEq PO DAILY 
14. albuterol sulfate 90 mcg/actuation inhalation Q3H:PRN asthma 


 
Discharge Medications:
1.  Cefpodoxime Proxetil 400 mg PO BID Duration: 10 Days  
2.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
3.  albuterol sulfate 90 mcg/actuation inhalation Q3H:PRN asthma 
 
4.  Calcium Carbonate 3000 mg PO DAILY  
5.  Dexamethasone 8 mg PO Q12H:PRN chemotherapy  
6.  EPINEPHrine (EpiPEN) 0.3 mg IM ASDIR  
7.  Gabapentin 1200 mg PO TID  
8.  Megestrol Acetate 625 mg PO DAILY  
9.  Mirtazapine 30 mg PO QHS  
10.  Naloxone Nasal Spray 4 mg IH ASDIR  
11.  Ondansetron 8 mg PO Q8H:PRN Nausea/Vomiting - First Line  
12.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate  
13.  Pegfilgrastim-cbqv 6 mg SC ASDIR  
14.  Potassium Chloride 20 mEq PO DAILY  
15.  Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pneumonia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a privilege to care for you at the ___ 
___. You were admitted with pneumonia and improved 
significantly with antibiotics. You will need to continue taking 
antibiotics by mouth for the next ten days. 

Your oncology team will be rescheduling your next chemotherapy 
for ___ to allow you to recover fully from this infection. You 
do not need to go to your appointment this ___. 

Please continue taking all medications as prescribed and follow 
up with all appointments as detailed below. 

We wish you the best!

Sincerely,
Your ___ Team 

 
Followup Instructions:
___